US08871756B2
N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]ethane-1,2-diamine
To a cooled solution of trifluoroacetic acid in dichloromethane (2 mL, V/V=1/4) was added tert-butyl {2-[2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]aminoethyl}carbamate (120 mg, 0.258 mmol) in an ice bath. The mixture was stirred for 3 hours whilst allowing the temperature of the mixture rising naturally to room temperature, and then concentrated in vacuo. The residue was dissolved in water (10 mL), and washed with dichloromethane (10 mL). The aqueous layer was adjusted to pH 10 with a saturated aqueous solution of sodium carbonate and extracted with ethyl acetate (20 mL×2). The organic extracts were dried with sodium sulfate, concentrated in vacuo to afford 68 mg of the product as a white solid (yield was 72%). MS obsd. (ESI+) [(M+H)+] 366, 1H NMR (400 MHz, CD3OD) δ ppm 7.67-7.64 (t, J=12.0 Hz, 2 H), 7.49-7.47 (d, J=8.4 Hz, 1 H), 7.38-7.30 (m, 2 H), 7.23-7.19 (dd, J=8.4, 7.6 Hz, 2 H), 7.13-7.09 (dd, J=8.8 Hz, 1 H), 5.04 (s, 2 H), 4.38 (s, 2 H), 3.75-3.72 (m, 2 H), 2.98-2.92 (m, 4 H), 2.39 (s, 3 H).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl {2-[2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]aminoethyl}carbamate | 0.258 mmol, 120 mg | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCCNC(OC(C)(C)C)=O)C | C25H31N5O2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]ethane-1,2-diamine | 68 mg, yield was 72% | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCCN)C | C20H23N5S
